US04710507
6-Bromo-3-cyano-2-[1H]-quinolone (142 g) was heated under reflux in phosphorus oxychloride (500 cm3) for 1.5 hours. Volatile material was removed in vacuo and the solid residue was taken into chloroform (400 cm3) and the resulting slurry was poured onto ice. The mixture was neutralised with aqueous ammonia solution (S.G. 0.880) and the aqueous phase was extracted further with chloroform (2×150 cm3). The dried (MgSO4) organic extracts were concentrated in vacuo and the residue chromatographed on silica (Merck "MK 60.9385") eluting with toluene to give a solid which was recrystallised from ethyl acetate to afford 2-chloro-6-bromo-3-cyano-quinoline, m.p. 228°-230°, (80 g).

reactant | 6-Bromo-3-cyano-2-[1H]-quinolone | 142 g | BrC=1C=C2C=C(C(NC2=CC1)=O)C#N | C10H5BrN2O
reactant | phosphorus oxychloride | 500 cm3 | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-6-bromo-3-cyano-quinoline | ClC1=NC2=CC=C(C=C2C=C1C#N)Br | C10H4BrClN2
